US04395409
(c) 7-Chloro-3-dimethylcarbamoyloxy-5-phenyl-2-phenylcarbamoyloxyamino-3H-1,4-benzodiazepine
5 ml of a solution of dimethylamine in methanol (content 30 g of dimethylamine in 100 ml) are added to 0.5 g of 7-chloro-5-phenyl-2-phenylcarbamoyloxyamino-3-phenyloxycarbonyloxy-3H-1,4-benzodiazepine in 10 ml of methanol, whilst stirring. The mixture is stirred for 5 hours at room temperature and water is added to it; the residue is filtered off and dried.

reactant | dimethylamine | CNC | C2H7N
reactant | 7-chloro-5-phenyl-2-phenylcarbamoyloxyamino-3-phenyloxycarbonyloxy-3H-1,4-benzodiazepine | 0.5 g | ClC=1C=CC2=C(C(=NC(C(=N2)NOC(NC2=CC=CC=C2)=O)OC(=O)OC2=CC=CC=C2)C2=CC=CC=C2)C1 | C29H21ClN4O5
reactant | water | O | H2O
solvent | methanol | 100 ml, 30 g | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 7-Chloro-3-dimethylcarbamoyloxy-5-phenyl-2-phenylcarbamoyloxyamino-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NC(C(=N2)NOC(NC2=CC=CC=C2)=O)OC(N(C)C)=O)C2=CC=CC=C2)C1 | C25H22ClN5O4
